US04324729
4-(1-Hydroxy-2,6,6-trimethyl-cyclohex-3-en-1-yl)-but-3-yn-2-ol
5.5 g of 2-(3-oxa-pent-2-yloxy)-but-3-yne (see Example 2, letter a), 14 ml of 40% ethyl-magnesium bromide in diethyl ether and 3.5 g of 2,6,6-trimethyl-cyclohex-3-en-1-one in anhydrous diethyl ether were reacted as described in Example 2 (letter b). The crude reaction mixture was then acidified with 35% aqueous H2SO4 and stirred during 2 hours at 20°. After addition of 10% aqueous Na2CO3 until neutrality, extraction with diethyl ether, drying of the organic phase over Na2SO4 and evaporation, there were isolated 0.4 g of crude material. This latter was purified by means of crystallization in cyclohexane, m.p. 101°-104°, to give the desired compound.

reactant | 2-(3-oxa-pent-2-yloxy)-but-3-yne | 5.5 g | CC(OCC)OC(C)C#C | C8H14O2
reactant | ethyl-magnesium bromide | 14 ml | C(C)[Mg]Br
reactant | 2,6,6-trimethyl-cyclohex-3-en-1-one | 3.5 g | CC1C(C(CC=C1)(C)C)=O | C9H14O
reactant | H2SO4 | OS(=O)(=O)O | H2O4S
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | diethyl ether | C(C)OCC | C4H10O
product | 4-(1-Hydroxy-2,6,6-trimethyl-cyclohex-3-en-1-yl)-but-3-yn-2-ol | OC1(C(C=CCC1(C)C)C)C#CC(C)O | C13H20O2
